US07888354B2
(2) Preparation of (2R)-1-[2-(4-iodophenoxy)ethyl]-2-methylpyrrolidine
To a suspension of (2R)-2-methylpyrrolidine (0.60 g) and cesium carbonate (1.2 g) in acetonitrile (3 mL), 1-(2-chloroethoxy)-4-iodobenzene obtained in Example 60-(1) (0.87 g) was added and the mixture was heated to 100° C., at which it was stirred for 9 hours. The reaction mixture was cooled to room temperature and filtered to remove insoluble materials, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by NH-type silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=9:1 to 1:1) to give the titled compound (0.80 g, 78%) as a colorless oil.

reactant | (2R)-2-methylpyrrolidine | 0.60 g | C[C@H]1NCCC1 | C5H11N
reactant | cesium carbonate | 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-chloroethoxy)-4-iodobenzene | ClCCOC1=CC=C(C=C1)I | C8H8ClIO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (2R)-1-[2-(4-iodophenoxy)ethyl]-2-methylpyrrolidine | 0.80 g, 78% | IC1=CC=C(OCCN2[C@@H](CCC2)C)C=C1 | C13H18INO
